US04530922
Preparation of [bis(4-Fluorophenyl)](trimethylsilyloxy)(1H-1,2,4-triazol-1-ylmethyl)silan
To a solution of 1.5 g (0.0047 mol) of [bis(4-fluorophenyl)]hydroxy(1H-1,2,4-triazol-1-ylmethyl)silane in 20 ml of tetrahydrofuran was added 0.8 ml (0.0063 mol) of chlorotrimethylsilane. A solution of 0.8 ml (0.0057 mol) of triethylamine in 5 ml of tetrahydrofuran was added dropwise, giving a thick white precipitate. The mixture was stirred overnight at room temperature, then filtered and concentrated to an oil. The residue was taken up in ether, filtered, and the filtrate was evaporated to afford the title compound as a clear colorless oil: nmr (CDCl3) 0.1 (9H, s), 4.3 (2H, s), 7.2 (4H, t, J=9 Hz), 7.6 (4H, d of d, J=9,6 Hz), 8.0 (2H, s).

reactant | [bis(4-fluorophenyl)]hydroxy(1H-1,2,4-triazol-1-ylmethyl)silane | 0.0047 mol, 1.5 g | FC1=CC=C(C=C1)[Si](CN1N=CN=C1)(O)C1=CC=C(C=C1)F | C15H13F2N3OSi
reactant | chlorotrimethylsilane | 0.0063 mol, 0.8 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | triethylamine | 0.0057 mol, 0.8 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | [bis(4-Fluorophenyl)](trimethylsilyloxy)(1H-1,2,4-triazol-1-ylmethyl)silan | FC1=CC=C(C=C1)[Si](CN1N=CN=C1)(O[Si](C)(C)C)C1=CC=C(C=C1)F | C18H21F2N3OSi2
